US08530480B2
A mixture of 1-(3-bromophenyl)piperidin-4-one (1.5 g, 6.0 mmol), bis(pinacolato)diboron (2.4 g, 9.4 mmol), Pd(dppf) (0.3 g, 0.36 mmol), KOAc (1.74 g, 18 mmol) and DMSO (8 mL) was place in a sealed tube and heated to 100° C. for 2 h. The reaction mixture was cooled, diluted with water and extracted with ether (3×). The combined organics were dried (MgSO4) and concentrated to give 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-4-one which was used for next step without further purification.

reactant | 1-(3-bromophenyl)piperidin-4-one | 6.0 mmol, 1.5 g | BrC=1C=C(C=CC1)N1CCC(CC1)=O | C11H12BrNO
reactant | bis(pinacolato)diboron | 9.4 mmol, 2.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 18 mmol, 1.74 g | CC(=O)[O-].[K+]
reactant | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-4-one | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCC(CC1)=O)C | C17H24BNO3
